US06482835B2
In 10 ml of tetrahydrofuran is dissolved 2 g of N-[(1R)-1-(4-bromophenyl)ethyl]-2,2-dimethylpropanamide, and to this solution is dropwise added 14.3 ml o f phenyllithium (1.48 M cyclohexane-diethyl ether solution), after which the temperature of the resulting mixture is elevated to −5° C. and the mixture is stirred at the same temperature for 4 hours. Subsequently, 1.06 g of paraformaldehyde is added thereto and the mixture is stirred at 5° C. f or 1 hour, after which 6 ml of water is added to the reaction mixture and the organic layer is separated. The organic layer obtained is dried over anhydrous magnesium sulfate and the solvent is removed by distillation under reduced pressure. The residue obtained is purified by silica gel chromatography (eluant; n-hexane:ethyl acetate=2:1) to obtain 1.48 g (yield: 66.9%) of 5-bromo-2-{(1R)-1-[(2,2-dimethylpropanoyl)amino]-ethyl}benzyl alcohol.

reactant | N-[(1R)-1-(4-bromophenyl)ethyl]-2,2-dimethylpropanamide | 2 g | BrC1=CC=C(C=C1)[C@@H](C)NC(C(C)(C)C)=O | C13H18BrNO
reactant | phenyllithium | 1.48 M | C1(=CC=CC=C1)[Li]
reactant | paraformaldehyde | 1.06 g | C=O | CH2O
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-bromo-2-{(1R)-1-[(2,2-dimethylpropanoyl)amino]-ethyl}benzyl alcohol | 1.48 g, yield: 66.9% | BrC=1C=CC(=C(CO)C1)[C@@H](C)NC(C(C)(C)C)=O | C14H20BrNO2
